US07223791B2
To a solution (50 ml) of 5-chloro-2-phenylpyridine (3.50 g) in tetrahydrofuran was added dropwise t-butyl lithium (1.7 M solution in pentane, 12.0 ml) under an argon atmosphere at −78° C., and the mixture was stirred for 1 hr. To this mixed solution was added a solution (15 ml) of zinc chloride (3.00 g) in tetrahydrofuran, and the mixture was stirred at 0° C. for 30 min. Then, ethyl 4-iodobenzoate (3.4 ml) and tetrakis (triphenylphosphine)palladium (1.15 g) were added. This mixture was stirred overnight at room temperature under an argon atmosphere, and poured into 0.5 M hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1, volume ratio). Recrystallization from hexane-ethyl acetate gave ethyl 4-(3-chloro-6-phenyl-2-pyridyl)benzoate (3.86 g, yield 58%) as colorless crystals. melting point: 81–82° C.

reactant | 5-chloro-2-phenylpyridine | 50 ml, 3.50 g | ClC=1C=CC(=NC1)C1=CC=CC=C1 | C11H8ClN
reactant | t-butyl lithium | 1.7 M, 12.0 ml | C(C)(C)(C)[Li]
reactant | ethyl 4-iodobenzoate | 3.4 ml | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | zinc chloride | 15 ml, 3.00 g | [Cl-].[Zn+2].[Cl-]
product | ethyl 4-(3-chloro-6-phenyl-2-pyridyl)benzoate | 3.86 g, yield 58% | ClC=1C(=NC(=CC1)C1=CC=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C20H16ClNO2
